US09193694B2
Synthesis of 3-(pyridin-2-ylmethylene)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one.
A solution of 400 mg 6-(4-(trifluoromethoxy)phenyl)chroman-4-one (1.3 mmol, 1.0 eq), 150 μL 2-pyridine carboxaldehyde (1.6 mmol, 1.2 eq) and 130 μL pyrrolidine (1.6 mmol, 1.2 eq) in 10 mL ethanol was refluxed 3 h. The reaction was concentrated and purified on silica gel column eluting with EA:Hex. 160 mg of a yellow solid was collected. m/z=398.0

reactant | 6-(4-(trifluoromethoxy)phenyl)chroman-4-one | 1.3 mmol, 400 mg, 1.0 eq | FC(OC1=CC=C(C=C1)C=1C=C2C(CCOC2=CC1)=O)(F)F | C16H11F3O3
reactant | 2-pyridine carboxaldehyde | 1.6 mmol, 150 μL, 1.2 eq | N1=C(C=CC=C1)C=O | C6H5NO
reactant | pyrrolidine | 1.6 mmol, 130 μL, 1.2 eq | N1CCCC1 | C4H9N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(pyridin-2-ylmethylene)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one | N1=C(C=CC=C1)C=C1COC2=CC=C(C=C2C1=O)C1=CC=C(C=C1)OC(F)(F)F | C22H14F3NO3
